US08124766B2
To a suspension of 5-bromobenzothiophene-2-carboxylic acid (109 mg, 0.42 mmol) in dichloromethane (5 mL) was added oxalyl chloride (2M in dichloromethane, 0.5 mL) and one drop of DMF. The mixture was stirred at room temperature for 1 hr and solvents were evaporated. The residue was diluted with benzene (10 mL) and then concentrated to dryness. The residue was dissolved in dichloromethane (5 mL) and treated with (S)-3-(5-amino-pyridin-2-ylamino)-pyrrolidine-1-carboxylic acid ethyl ester (106 mg, 0.42 mmol) in dichloromethane (5 mL) containing triethylamine (0.1 mL). The mixture was stirred at room temperature for 1 hr and solvents were evaporated. The residue was extracted with ethyl acetate and saturated ammonium chloride solution. Organic layer was washed with brine and dried over sodium sulfate. Solvents were evaporated and the residue was treated with methanol (1 mL) and hydrogen chloride in ether. Solvents were evaporated and the residue was treated with ether. The precipitate was filtered and washed with ether to give a light pink solid as (S)-3-{5-[(5-bromo-benzo[b]thiophene-2-carbonyl)-amino]-pyridin-2-ylamino}-pyrrolidine-1-carboxylic acid ethyl ester hydrochloride (100 mg, 48.3% yield). LCMS for C21H21BrN4O3S calcd. (m/e) 488, observed 489 (M+H).

reactant | 5-bromobenzothiophene-2-carboxylic acid | 0.42 mmol, 109 mg | BrC=1C=CC2=C(C=C(S2)C(=O)O)C1 | C9H5BrO2S
reactant | oxalyl chloride | 2M, 0.5 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | (S)-3-(5-amino-pyridin-2-ylamino)-pyrrolidine-1-carboxylic acid ethyl ester | 0.42 mmol, 106 mg | C(C)OC(=O)N1C[C@H](CC1)NC1=NC=C(C=C1)N | C12H18N4O2
reactant | triethylamine | 0.1 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
catalyst | DMF | one drop | CN(C)C=O | C3H7NO
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | (S)-3-{5-[(5-bromo-benzo[b]thiophene-2-carbonyl)-amino]-pyridin-2-ylamino}-pyrrolidine-1-carboxylic acid ethyl ester hydrochloride | 100 mg, 48.3% yield | Cl.C(C)OC(=O)N1C[C@H](CC1)NC1=NC=C(C=C1)NC(=O)C1=CC2=C(S1)C=CC(=C2)Br | InChI=1S/C21H21BrN4O3S.ClH/c1-2-29-21(28)26-8-7-16(12-26)24-19-6-4-15(11-23-19)25-20(27)18-10-13-9-14(22)3-5-17(13)30-18;/h3-6,9-11,16H,2,7-8,12H2,1H3,(H,23,24)(H,25,27);1H/t16-;/m0./s1
